US08664220B2
Step 1: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-[1-(3-trifluoromethyl-benzyl)-1H-[1,2,3]triazol-4-yl]-methanol
1-Bromomethyl-3-trifluoromethyl-benzene (0.0491 g, 0.205 mmol) and sodium azide (0.0222 g, 0.342 mmol) were combined in DMSO and stirred at room temperature for 2 hours. Then, 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-prop-2-yn-1-ol (0.500 g, 0.171 mmol), copper(II)sulfate pentahydrate (0.0043 g, 0.017 mmol) and sodium ascorbate (0.0034 g, 0.017 mmol) were added and the reaction stirred at room temperature for 2 days. The reaction was submitted to standard aqueous workup and purified on silica gel to afford the title compound.

reactant | 1-Bromomethyl-3-trifluoromethyl-benzene | 0.205 mmol, 0.0491 g | BrCC1=CC(=CC=C1)C(F)(F)F | C8H6BrF3
reactant | sodium azide | 0.342 mmol, 0.0222 g | [N-]=[N+]=[N-].[Na+]
reactant | 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-prop-2-yn-1-ol | 0.171 mmol, 0.500 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C#C)O | C13H10BrNO2
reactant | sodium ascorbate | 0.017 mmol, 0.0034 g | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | copper(II)sulfate pentahydrate | 0.017 mmol, 0.0043 g | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-[1-(3-trifluoromethyl-benzyl)-1H-[1,2,3]triazol-4-yl]-methanol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(O)C=1N=NN(C1)CC1=CC(=CC=C1)C(F)(F)F | C21H16BrF3N4O2
